US07135480B2
3-Cyano-1-(morpholine-4-carbonyl)-pyrrolo[1,2-a]quinoline
1-(2-Morpholin-4-yl-2-oxo-ethyl)-quinolinium chloride: A stirred solution of 2-chloro-1-morpholin-4-yl-ethanone (1.02 g, 6.23 mmol), quinoline (700 μL, 5.91 mmol) and acetonitrile (15.0 mL) was refluxed at 96° C. for 6 h under argon. The solution was equilibrated to room temperature and the precipitate was filtered on a Buchner funnel. The solid was dried in vacuo to yield 349 mg (29%) of the title compound. 1H NMR (DMSO-d6): 9.58 (d, J=6.0 Hz, 1H), 9.42 (d, J=8.1 Hz, 1H), 8.53 (d, J=7.8 Hz, 1H), 8.44 (d, J=9.0 Hz, 1H), 8.28 (m, 2H), 8.06 (t, J=7.8 Hz, 1H), 3.82 (t, J=4.2 Hz, 2H), 3.65 (m, 4H), 3.47 (t, J=4.8 Hz, 2H).

reactant | 1-(2-Morpholin-4-yl-2-oxo-ethyl)-quinolinium chloride | [Cl-].N1(CCOCC1)C(C[N+]1=CC=CC2=CC=CC=C12)=O
reactant | 2-chloro-1-morpholin-4-yl-ethanone | 6.23 mmol, 1.02 g | ClCC(=O)N1CCOCC1 | C6H10ClNO2
reactant | quinoline | 5.91 mmol, 700 μL | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | acetonitrile | 15.0 mL | C(C)#N | C2H3N
product | 3-Cyano-1-(morpholine-4-carbonyl)-pyrrolo[1,2-a]quinoline | 349 mg, 29% | C(#N)C=1C=C(N2C1C=CC1=CC=CC=C21)C(=O)N2CCOCC2 | C18H15N3O2
